US04922021
4 ml of thionyl chloride are added to a suspension of 10.0 g (35.1 mmoles) of 1-(2,6-dimethylphenyl-amino)-2-(2hydroxyethylamino)-propane dihydrochloride, prepared as des ribed in Example 49, in 100 ml of dry toluene, and the mixture is stirred at 80° C. for 3 hours and then at 100° C. for one hour. The mixture is cooled, the separated precipitate is filtered off, washed with toluene and dried. 10.1 g (92%) of 1-(2,6-dimethylphenyl-amino)-2-(2-chloro-ethylamino)-propane dihydrochloride are obtained; m.p.: 163°-168° C.

reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2,6-dimethylphenyl-amino)-2-(2hydroxyethylamino)-propane dihydrochloride | 35.1 mmoles, 10.0 g | Cl.Cl.CC1=C(C(=CC=C1)C)NCC(C)NCCO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2,6-dimethylphenyl-amino)-2-(2-chloro-ethylamino)-propane dihydrochloride | 10.1 g, 92% | Cl.Cl.CC1=C(C(=CC=C1)C)NCC(C)NCCCl | InChI=1S/C13H21ClN2.2ClH/c1-10-5-4-6-11(2)13(10)16-9-12(3)15-8-7-14;;/h4-6,12,15-16H,7-9H2,1-3H3;2*1H
